* Wurlitzer 200A Preamp — AC Response vs LDR Resistance
* ======================================================
* Sweeps LDR resistance to see how gain varies with tremolo position.
* Tests from dark resistance (1M, tremolo off) to bright (1K, max tremolo).
*
* Source: Vs → R-1 (22K) → preamp input

.title Preamp AC vs LDR Resistance

.include ../models/transistors.lib
.include ../models/diodes.lib
.include ../subcircuits/preamp.cir

* Supply
Vcc  vcc 0  DC 14.5

* Instantiate preamp
Xpre  in_sig out vcc 0 trem  wurli_preamp

* Source: 1mV AC through R-1
Vin  src 0  DC 0 AC 1M
R1   src in_sig  22K

* Parametric LDR resistance
.param rldr_val = 12K
Rldr trem 0  {rldr_val}

* Load resistor
Rload out 0  100K

* AC analysis at 1 kHz only (narrow band for quick sweep)
.ac dec 1  1K  1K

.step param rldr_val list 1K 2K 5K 10K 12K 20K 50K 100K 500K 1MEG

.print AC VDB(out) VP(out)

.end
